US04837225
N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-N'-(4-ethoxycarbonylphenyl)-thiourea
8.3 g (0.04 mol) of 4-ethoxy carbonylphenyl isothiocyanate in 20 ml of ethylene glycol dimethyl ether are added dropwise at room temperature to 5.5 g (0.04 mol) of 1-(2-aminoethyl)-2,5-dimethylpyrrole in 20 ml of ethylene glycol dimethyl ether. The precipitated product is filtered off with suction and recrystallized from methanol. Yield: 5.1 g (37% of theory) Melting point: 155°-156° C. Elemental analysis: C18H23N3O2S (345.47) calculated: C 62.6 H 6.7 N 12.2 0. 9.3 S 9.3 found: C 62.0 H 6.7 N 11.6 0 10.0 S 9.2

reactant | 4-ethoxy carbonylphenyl isothiocyanate | 0.04 mol, 8.3 g | C(C)OC(=O)C1=CC=C(C=C1)N=C=S | C10H9NO2S
reactant | 1-(2-aminoethyl)-2,5-dimethylpyrrole | 0.04 mol | NCCN1C(=CC=C1C)C | C8H14N2
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
product | N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-N'-(4-ethoxycarbonylphenyl)-thiourea | CC=1N(C(=CC1)C)CCNC(=S)NC1=CC=C(C=C1)C(=O)OCC | C18H23N3O2S
